US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-2-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) was reacted with (S)-morpholin-2-ylmethanol hydrochloride (0.34 g, 2.2 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (0.25 g, 23%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (S)-morpholin-2-ylmethanol hydrochloride | 2.2 mmol, 0.34 g | Cl.N1C[C@H](OCC1)CO
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-2-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.25 g, 23% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1C[C@H](OCC1)CO)C=1SC=CN1 | C22H24BrFN4O4S
